data/oMe_Silver.jsonl
{"reaction_id": "NR-206_1-c1ccc(OC)cc1","level": "medium","name": "Norrish Reaction","reactants_smiles": ["O=C(C)Cc1ccc(OC)cc1"],"products_smiles": ["c1ccc(OC)cc1CC=C"],"conditions": "hv","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "cleavage","subtype": "homolytic_cleavage","intermediate_smiles": "[CH3]C=O.[CH2]C(c1ccc(OC)cc1)","step_weight": 0,"rationale": "UV light excites the carbonyl to a singlet or triplet state, weakening the α C–C bond via n→π* excitation, enabling homolytic cleavage to yield stabilized acyl and alkyl radicals."},{"step": 2,"type": "radical","subtype": "radical_termination","intermediate_smiles": "c1ccc(OC)cc1C=C","step_weight": 0,"rationale": "The alkyl radical undergoes β-scission or recombination, forming a C=C bond; radical termination is favored due to the stability of the conjugated alkene and the absence of further radical sources."}],"description": "Under UV irradiation, the carbonyl absorbs light and undergoes α-cleavage (Norrish Type I), generating radical fragments. These radicals then recombine or rearrange to form the alkene product, driven by radical stability and relief of electronic strain."}
{"reaction_id": "NR-049_1-CCCC(C)C_2-C_3-C_4-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2","name": "Corey-Seebach Reaction","level": "easy","reactants_smiles": ["S(CCCC(C)C)C(C)S(CCCC(C)C)","O=C(C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)"],"products_smiles": ["S(CCCC(C)C)C(C)(C(O)(C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2))S(CCCC(C)C)"],"conditions": "1) n-BuLi 2) Benzaldehyde 3) H3O+ workup","mechnism_text_description": "The mechanism begins with the deprotonation of 2-ethyl-1,3-dithiane (CCC1SCCS1) at the C2 position by n-butyllithium (n-BuLi), forming a nucleophilic lithiated dithiane carbanion. This carbanion then undergoes nucleophilic addition to the electrophilic carbonyl carbon of benzaldehyde (O=Cc1ccccc1), generating a lithium alkoxide intermediate. Finally, protonation of this alkoxide by an acidic workup (e.g., H3O+) yields the final product, 2-ethyl-2-(hydroxy(phenyl)methyl)-1,3-dithiane.","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "S(CCCC(C)C)[C-](C)S(CCCC(C)C)","step_weight": 0,"rationale": "n-BuLi abstracts the acidic C2 proton, as the adjacent sulfurs stabilize the resulting carbanion through inductive withdrawal and resonance, making deprotonation thermodynamically favorable."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "S(CCCC(C)C)C(C)(C([O-])(C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2))S(CCCC(C)C)","step_weight": 0,"rationale": "The carbanion attacks the aldehyde’s electrophilic carbonyl carbon, driven by strong nucleophilicity and polarization of the C=O bond, forming a tetrahedral alkoxide intermediate."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "S(CCCC(C)C)C(C)(C(O)(C)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2))S(CCCC(C)C)","step_weight": 0,"rationale": "Acidic workup protonates the alkoxide oxygen, favored by the high basicity of the alkoxide and the availability of protons in the acidic medium."}],"description": "n-BuLi deprotonates the acidic C2 of the dithiane, generating a stabilized carbanion via sulfur’s inductive and resonance effects. This nucleophile attacks the electrophilic aldehyde carbon, forming an alkoxide, which is protonated during acidic workup to yield the hydroxylated dithiane product."}
